US04299867
(a) 2-Ethyl-3-(2-hydroxyethyl)-2-Methyl-oxazolidine (MEHEOX)
A mixture of 315 g (3 mols) of diethanolamine, 432 g (6 moles) of methylethylketone, and 100 ml of cyclohexane is stirred and heated to reflux using a Dean-Stark trap to separate the water formed. The mixture is stirred and refluxed for a total of 311/2 hours during which 54 ml of aqueous layer, 85% water and 15% methylethylketone by NMR, is collected (85% of the theoretical amount of water of reaction). The mixture is then concentrated and the residue distilled to give 373 g (78% yield) of product, b.p. 85°-88° C./2.5-3.0 mm Hg.

reactant | diethanolamine | 3 mols, 315 g | N(CCO)CCO | C4H11NO2
reactant | cyclohexane | 100 ml | C1CCCCC1 | C6H12
reactant | water | O | H2O
solvent | methylethylketone | CC(=O)CC | C4H8O
solvent | methylethylketone | 6 moles, 432 g | CC(=O)CC | C4H8O
product | 2-Ethyl-3-(2-hydroxyethyl)-2-Methyl-oxazolidine | 373 g, 78% yield | C(C)C1(OCCN1CCO)C | C8H17NO2
